US08754100B2
Synthesis of 4-carbamoyl-3-(2-trifluoromethylphenyl)butanoic acid
Saturated ammonia/methanol (10 mL) was added to 4-(2-trifluoromethylphenyl)dihydropyrane-2,6-dione (636 mg), and the mixture was stirred at room temperature for 15 hours. Concentration under reduced pressure gave a crude product (716 mg) which was used for the next reaction without purification.

reactant | 4-(2-trifluoromethylphenyl)dihydropyrane-2,6-dione | 636 mg | FC(C1=C(C=CC=C1)C1CC(OC(C1)=O)=O)(F)F | C12H9F3O3
reactant | ammonia methanol | 10 mL | N.CO
product | 4-carbamoyl-3-(2-trifluoromethylphenyl)butanoic acid | 716 mg | C(N)(=O)CC(CC(=O)O)C1=C(C=CC=C1)C(F)(F)F | C12H12F3NO3
